Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness

 
Major Surgical or Invasive Procedure:
___: Implantation of a ___ dual chamber pacemaker: 
___ XT ___ MRI ___

 
History of Present Illness:
___ man with medical history of diabetes, known first 
degree AV delay, hypothyroidism, and hyperlipidemia who presents 
as transfer from ___ emergency department after being 
called by his primary care office to report that his event 
monitor showed an abnormality.  According to the patient he has 
been undergoing workup for sensation of dizziness that occurs 
while he is swallowing which he has described as the sensation 
of "leaving his body". He has never lost consciousness with 
this. As part of this workup he was asked to wear an event 
monitor. At approximately noon on ___ he received a call from 
Dr. ___ (covering for Dr. ___ patient's PCP) 
informing him that his event monitor detected an abnormality and 
that he should report to the emergency department. Per direct 
conversation by EP with Dr. ___ report ___ that she 
received said that the patient showed "high degree AV block with 
a 3.62 second RR interval" at the maximum.
 
Past Medical History:
First degree AV delay was documented by Heme-onc on ___ and 
a
PR interval of 240 on EKG in ___
Diabetes 2
Hyperlipidemia
Hypothyroidism
Multiple spine surgeries
FVL Heterozygote (Not on AC)
Varicose veins
Raynaud's phenomenon
Diverticular disease s/p lap sigmoid colectomy
 
Social History:
___
Family History:
No sudden cardiac death. His dad had early onset CAD with a 
stent in his ___. His mother had a TIA in her ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
VITAL SIGNS -  HR82, 158/76, RR 16, 98% RA 
Patient was able to do multiple squats and increase his heart
rate to 125 bpm
GENERAL - Well appearing in NAD, Oriented x3, comfortable,
Mood, affect appropriate. 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear,
Conjunctiva were pink, no pallor or cyanosis of the oral mucosa.
No xanthalesma. 
NECK - supple, no thyromegaly, no JVD, no carotid bruits 
LUNGS - CTAB, no w/r/r
HEART - PMI located in ___ intercostal space, midclavicular 
line,
RRR, normal S1, S2. No m/r/g.
ABDOMEN - soft/NT/ND, no masses or HSM, no rebound/guarding. 
EXTREMITIES - wwp, no c/c/e, 2+ peripheral pulses (radials, DPs)
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength
___ throughout, sensation grossly intact throughout

DISCHARGE PHYSICAL EAMNINATION:
VS: 97.4 150/92 HR ___ RR 16
Telemetry: overnight Apaced then atrial tachycardia @ 90bpm 
General: in no acute distress
Neuro: alert and oriented x3
Resp: clear bilaterally 
CV: normal s1,s2, no murmurs
Chest: CTA
Skin: pacemaker dressing to left pectoral region; no hematoma, 
ecchymosis
or drainage
Abd: +bs, soft, nontender
Extremity: no edema

 
Pertinent Results:
EKG: Normal axis, very long (~400ms) 1st degree AV block with 
p-waves buried in T, PVC, normal QRS and QTc, nonspecific 
T-waveflattening diffusely

___ Stress echo: Conclusions:
1. Good exercise capacity for age.
2. Normal hemodynamic response to stress.
3. No ischemic EKG changes or arrhythmia.
4. Exercise limited by dyspnea.  Compared to prior test from 
___, exercise capacity is similar.

Holter: 4 recordings; three recordings showed sinus rates at 
66-93 bpm with B/APBs, episodes of AV Wenckeback and an episode 
of high grade AV block with an RR interval of 3.62 seconds. 1 
isolated VPB noted recording all noise. 

LABS: ___: Hemoglobin 15.4 Platelets 306 Creatinine 0.83 K 
4.4
Troponin less than 0.01
 
Brief Hospital Course:
# Heart block
- Review of holter monitor recordings identified high-grade AV 
block consistent with AV node disease, a class I indication for 
a permanent pacemaker. On ___ he underwent successful 
implantation of a ___ dual chamber pacemaker: Azure XT ___ 
MRI W1DR01. There was no bleeding at the device site post 
procedure.
- Post procedure recovery initially showed sinus rhythm with 
intermittent A-sensing, A-pacing and AV pacing. On the morning 
of discharge telemetry/ECG identified atrial tachycardia. He was 
asymptomatic and tolerated this rhythm. No additional 
medications indicated. He was discharged with ___ monitor and 
instructed to call Dr. ___ he experienced any new 
symptoms. 

# Hypertension
- It was noted that BPs were persistently elevated during this 
admission. Patient denies being aware of any history of an 
elevated blood pressure. SBP 140-170 and DBP 90-100. Per review 
with Dr ___ 10mg daily was added with a plan 
for outpatient follow up.

# Diabetes 2
- Non-fasting BG 228 on admit labs: he was restarted on home 
metformin at discharge.
- Continued ___ diet.

# Dyslipidemia
- Continued atorvastatin 40mg,

# Hypothyroid
- No recent TSH in OMR: continued levothyroxine.

 
Medications on Admission:
1. Atorvastatin 40 mg PO QPM 
2. Levothyroxine Sodium 100 mcg PO QAM 
3. MetFORMIN XR (Glucophage XR) 750 mg PO BID 
4. Aspirin 81 mg PO QPM 
5. Multivitamins 1 TAB PO QPM 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q8H for 5 more doses  
2.  Lisinopril 10 mg PO DAILY  
3.  Aspirin 81 mg PO QPM  
4.  Atorvastatin 40 mg PO QPM  
5.  Levothyroxine Sodium 100 mcg PO QAM  
6.  MetFORMIN XR (Glucophage XR) 750 mg PO BID  
7.  Multivitamins 1 TAB PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complete heart block
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent. Level of Consciousness: Alert 
and interactive. Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
- You had a pacemaker implanted to prevent your pulse from going 
too slow. 
- Please continue all your current medicines. Additionally you 
will take an antibiotic called Keflex ___ every 8 hours for 5 
more doses
- While in the hospital your BP was high. Ranging from 136/88 to 
170/95. A medicine called lisinopril 10 mg was started.
- On the morning of discharge the heart monitor showed a rhythm 
called atrial tachycardia. Since you tolerated this, there is no 
additional medicines to take at this time. If you begin to 
experience symptoms of feeling faint, dizzy, palpitations, or 
short of breath, please call Dr ___ to review. The heart 
monitor is reviewed every day. You will be contacted with there 
are any concerning irregularities in the heart rate.  
 - Please call you PCP to have your BP checked next week. Also 
BP medicines can affect potassium and kidney function. You have 
been given a labticket for blood work due in 1 week to check 
potassium and kidney function. You do not have to fast for this 
test. Please call your PCP to follow up on the results. 
- Activity restrictions and care of the incision site are 
included in your discharge instructions.
 
Followup Instructions:
___